US04663332
1-[2-Hydroxy-3-propyl-4-[4-(1H-tetrazol-5-yl)butoxy]phenyl]ethanone was allowed to react with (3-(2-bromoethyl)pyridine hydrobromide according to procedure A and the product was purified by high pressure liquid chromatography to give 1-[2-hydroxy-3-propyl-4-[4-[1-[2-(3-pyridinyl)ethyl]-1H-tetrazol-5-yl]butoxy]phenyl]ethanone, which is the N-1 isomer, and 1-[2-hydroxy-3-propyl-4-[4-[2-[2-(3-pyridinyl)ethyl]-2H-tetrazol-5-yl]butoxy]phenyl]ethanone, which is the N-2 isomer.

reactant | 1-[2-Hydroxy-3-propyl-4-[4-(1H-tetrazol-5-yl)butoxy]phenyl]ethanone | OC1=C(C=CC(=C1CCC)OCCCCC1=NN=NN1)C(C)=O | C16H22N4O3
reactant | 3-(2-bromoethyl)pyridine hydrobromide | Br.BrCCC=1C=NC=CC1
product | 1-[2-hydroxy-3-propyl-4-[4-[1-[2-(3-pyridinyl)ethyl]-1H-tetrazol-5-yl]butoxy]phenyl]ethanone | OC1=C(C=CC(=C1CCC)OCCCCC1=NN=NN1CCC=1C=NC=CC1)C(C)=O | C23H29N5O3
